US06133271
With the procedure of Example 1, the reaction of 4-fluorobenzylamine with 4-chloro-2-(pyridin-2-yl)-6-chloro-thieno-[2,3-d]-pyrimidine yields 2-(pyridin-2-yl)-4-(4-fluorobenzylamino)-6-chloro-thieno-[2,3-d]-pyrimidine.

reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | 4-chloro-2-(pyridin-2-yl)-6-chloro-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C1=NC=CC=C1)SC(=C2)Cl | C11H5Cl2N3S
product | 2-(pyridin-2-yl)-4-(4-fluorobenzylamino)-6-chloro-thieno-[2,3-d]-pyrimidine | N1=C(C=CC=C1)C=1N=C(C2=C(N1)SC(=C2)Cl)NCC2=CC=C(C=C2)F | C18H12ClFN4S
